US06969724B2
2,3-Dihydro-2-[(4-phenylpiperidin-1-yl)carbonyl]-1H-indene
750 mg (4.6 mmol) of 2,3-dihydro-1H-inden-2-carboxylic acid (prepared as described in Hacksell, J. Med. Chem., 24, 429, 1981) were dissolved in 15 mL of CH2Cl2 and 0.65 mL (7.4 mmol) of oxalyl chloride were added dropwise at 0° C. under a nitrogen atmosphere. The solution was allowed to warm to room temperature in 2 h, then the solvent was removed in vacuo. The resulting acyl chloride was dissolved in 10 mL of CH2Cl2 and added to a solution of 909 mg (4.6 mmol) of 4-phenylpiperidine hydrochloride and 1.9 mL (13.8 mmol) of triethylamine in 15 mL of CH2Cl2 at 0° C. The reaction mixture was allowed to warm to room temperature overnight, then water was added and the organic phase was washed with 5% HCl and dried. The solvent was removed in vacuo and the resulting crude product was purified by flash chromatography, eluting with a mixture Et2O/Petroleum ether 7:3, yielding 630 mg of the title compound. IR (cm−1)=2944, 1636, 1494. NMR (300 MHz, CDCl3, δ ppm): 7.35 (m, 2H); 7.25-7.1 (m, 7H); 4.85 (m, 1H); 4.15 (m, 1H); 3.55 (m, 1H); 3.4-3.3 (m, 2H); 3.3-3.1 (m, 3H); 2.85-2.6 (m, 2H); 2.0-1.9 (m, 2H); 1.75.1.6 (m, 2H). MS (m/z): 306.0 (MH+).

reactant | 2,3-dihydro-1H-inden-2-carboxylic acid | 4.6 mmol, 750 mg | C1C(CC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | oxalyl chloride | 7.4 mmol, 0.65 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-phenylpiperidine hydrochloride | 4.6 mmol, 909 mg | Cl.C1(=CC=CC=C1)C1CCNCC1
reactant | triethylamine | 13.8 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2,3-Dihydro-2-[(4-phenylpiperidin-1-yl)carbonyl]-1H-indene | 630 mg | C1(=CC=CC=C1)C1CCN(CC1)C(=O)C1CC2=CC=CC=C2C1 | C21H23NO
